US09085555B2
(R)-1-(3-Chloro-2-fluoro-phenyl)-N*3*,N*3*-dimethyl-propane-1,3-diamine
was prepared using similar procedures as described for the synthesis of (3-acetyl-pyrrolo[2,3-c]pyridin-1-yl)-acetic acid in Scheme C4 from (R)-3-amino-3-(3-chloro-2-fluoro-phenyl)-propan-1-ol. 1H-NMR (400 MHz, DMSO): δ (ppm): 8.89 (m, 2H), 7.73 (m, 2H), 7.39 (t, 1H), 4.69 (m, 1H), 3.13 (m, 1H), 2.98 (m, 1H), 2.73 (s, 6H), 2.47 (m, 1H), 2.34 (1H).

reactant | (3-acetyl-pyrrolo[2,3-c]pyridin-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CN=CC=C21)CC(=O)O | C11H10N2O3
reactant | (R)-3-amino-3-(3-chloro-2-fluoro-phenyl)-propan-1-ol | N[C@H](CCO)C1=C(C(=CC=C1)Cl)F | C9H11ClFNO
product | (R)-1-(3-Chloro-2-fluoro-phenyl)-N*3*,N*3*-dimethyl-propane-1,3-diamine | ClC=1C(=C(C=CC1)[C@@H](CCN(C)C)N)F | C11H16ClFN2
